US09120749B2
{6-Bromo-4-[4-(diallylamino)-4-methylcyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure B, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (300 mg, 0.966 mmol) was reacted with N1,N1-diallyl-1-methylcyclohexane-1,4-diamine (400 mg, 1.93 mmol) to afford the desired product (220 mg, 47%) as a yellow solid: ESI MS m/z 482 [C26H32BrN3O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.966 mmol, 300 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | N1,N1-diallyl-1-methylcyclohexane-1,4-diamine | 1.93 mmol, 400 mg | C(C=C)N(C1(CCC(CC1)N)C)CC=C | C13H24N2
product | {6-Bromo-4-[4-(diallylamino)-4-methylcyclohexylamino]quinolin-3-yl}(cyclopropyl)methanone | 220 mg, 47% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1CCC(CC1)(C)N(CC=C)CC=C | C26H32BrN3O
